US07547710B2
To a mixture of N-[(benzyloxy)carbonyl]glycine (0.78 g, 3.8 mmol), N,N-dimethylformamide (0.1 ml) and tetrahydrofuran (20 ml) was added dropwise oxalyl chloride (0.33 ml, 3.7 mmol) under ice-cooling. The mixture was stirred under ice-cooling for 1 hr. to give a crude product of N-[(benzyloxy)carbonyl]glycyl chloride. To a mixture of tert-butyl N-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]glycinate (0.40 g, 0.75 mmol), pyridine (0.3 ml, 3.7 mmol) and tetrahydrofuran (100 ml) was added dropwise the crude product. The obtained mixture was stirred for 1 hr. and 4-dimethylaminopyridine (0.01 g, 0.82 mmol) was added, and the mixture was stirred at room temperature for 2 days. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed successively with water, saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl N-[(benzyloxy)carbonyl]glycyl-N-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]glycinate (0.47 g, yield 87%) as a white powder.

reactant | N-[(benzyloxy)carbonyl]glycine | 3.8 mmol, 0.78 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 3.7 mmol, 0.33 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[(benzyloxy)carbonyl]glycyl chloride | C(C1=CC=CC=C1)OC(=O)NCC(=O)Cl | C10H10ClNO3
